US05223639
Into 15 ml of dimethylformamide were dissolved with heating 2.0 g of anthranilic acid and 2.3 g of anhydrous calcium chloride. To 10 ml of dimethylformamide were added in order 0.78 ml of thionyl chloride and 2.08 g of 3',4'-dimethoxycinnamic acid, during which the reaction system was stirred and cooled with ice and water. The resulting mixture was added dropwise to the above solution, during which the reaction system was stirred and cooled with ice and water. After the completion of the dropping, the reaction mixture was stirred for 30 minutes at the same temperature and then for 1 hour at room temperature. After the completion of the reaction, 80 ml of ice-water mixture was added thereto. Then, air was introduced thereinto for 30 minutes, and crystals deposited were collected by filtration and recrystallized from ethanol-water (1:2) to give 2.35 g (yield: 71.8%) of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid. Melting point: 209°-211° C.

reactant | anthranilic acid | 2.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | calcium chloride | 2.3 g | [Cl-].[Ca+2].[Cl-]
reactant | thionyl chloride | 0.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3',4'-dimethoxycinnamic acid | 2.08 g | COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C11H12O4
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 2.35 g, yield: 71.8% | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
